US08957203B2
Preparation of oxetan-3-yl pyridin-2-yl carbonate
To a suspension of sodium hydride, 60% in mineral oil (0.594 g, 14.85 mmol) in THF (50 mL) was added oxetan-3-ol (1 g, 13.50 mmol) at 0° C. After stirring 30 min, the solution was transferred to a solution of di(pyridin-2-yl)carbonate (2.92 g, 13.50 mmol) in THF (50 mL) through a cannula. The formed slurry was stirred at 0° C. for 30 min. The slurry was warmed to rt and stirred for 2 h. The reaction was diluted with EtOAc, washed with brine, dried over MgSO4, filtered, concentrated to give a residue that was purified by Biotage eluting with 20-50% EtOAc in hexanes to afford the desired product oxetan-3-yl pyridin-2-yl carbonate (452 mg, 17.16% yield) as an oil. 500 mg sm recovered. 1H NMR (400 MHz, CHLOROFORM-d) d 8.42 (dd, J=4.6, 1.6 Hz, 1H), 7.89-7.77 (m, 1H), 7.33-7.27 (m, 1H), 7.14 (d, J=8.3 Hz, 1H), 5.62-5.52 (m, 1H), 4.96-4.91 (m, 2H), 4.83-4.78 (m, 2H).

reactant | sodium hydride | [H-].[Na+]
reactant | oxetan-3-ol | 13.50 mmol, 1 g | O1CC(C1)O | C3H6O2
reactant | di(pyridin-2-yl)carbonate | 13.50 mmol, 2.92 g | N1=C(C=CC=C1)OC(OC1=NC=CC=C1)=O | C11H8N2O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | oxetan-3-yl pyridin-2-yl carbonate | 452 mg, 17.16% yield | C(OC1COC1)(OC1=NC=CC=C1)=O | C9H9NO4
